US07244729B2
Step 141.3: 4-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6 -yl]-benzoic acid ethyl ester
Hydrogenation of 0.50 g (0.91 mMol) of 4-[4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester in 150 ml of THF and 15 ml of 1,3-dimethyl-2-imidazolidinone in the presence of 0.2 g of Pd/C (10%; “Engelhard 5125”), filtration and concentration gives the crude product. Stirring in THF/water, filtration and washing with water gives the title compound; MS-ES+: (M+H)+=431; elemental analysis for C, H, N and F within 0.4% of calculated value.

reactant | 4-[4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | 0.91 mMol, 0.50 g | C(C)OC(C1=CC=C(C=C1)C1=CC=2C(N(C=NC2OC=2C(=C3C=C(NC3=CC2)C)F)CC2=CC=C(C=C2)OC)=N1)=O | C32H27FN4O4
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-2-imidazolidinone | 15 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | THF water | C1CCOC1.O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 4-[4-(4-Fluoro-2-methyl-1H-indol-5-yloxy)-7H-pyrrolo[2,3-d]pyrimidin-6 -yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC=2C(=C3C=C(NC3=CC2)C)F)N1)=O | C24H19FN4O3
